US07138410B2
N-(4′-Fluoro-1,1′-biphenyl-4-yl)-1-azabicyclo[2.2.2]octane-3-carboxamide hydrochloride
90 mg (0.26 mmol) of N-(4-bromophenyl)-1-azabicyclo[2.2.2]octane-3-carboxamide hydrochloride, 40 mg (0.31 mmol) of 4-fluorophenylboronic acid, 190 mg (0.57 mmol) of cesium carbonate and 20 mg (0.03 mmol) of bis(diphenylphosphino)ferrocenepalladium(II) chloride are reacted in 1 ml of 1,2-dimethoxyethane by the general method. 17.6 mg (19% of theory) of the title compound are obtained.

reactant | N-(4-bromophenyl)-1-azabicyclo[2.2.2]octane-3-carboxamide hydrochloride | 0.26 mmol, 90 mg | Cl.BrC1=CC=C(C=C1)NC(=O)C1CN2CCC1CC2
reactant | 4-fluorophenylboronic acid | 0.31 mmol, 40 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | cesium carbonate | 0.57 mmol, 190 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,2-dimethoxyethane | 1 ml | COCCOC | C4H10O2
product | N-(4′-Fluoro-1,1′-biphenyl-4-yl)-1-azabicyclo[2.2.2]octane-3-carboxamide hydrochloride | Cl.FC1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C1CN2CCC1CC2 | InChI=1S/C20H21FN2O.ClH/c21-17-5-1-14(2-6-17)15-3-7-18(8-4-15)22-20(24)19-13-23-11-9-16(19)10-12-23;/h1-8,16,19H,9-13H2,(H,22,24);1H
